US08003663B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide monohydrobromide
Isopropanol (15 ml) was added to N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide (the “free base”, 1.5 g, e.g. which can be as prepared in Example 1B) and the mixture was heated at 60° C. for 1 hour to dissolve the free base. 48% Aqueous hydrobromic acid (0.273 ml, 1 equiv.) was added, and the mixture was left to temperature cycle between 0° C. and 40° C. over the weekend (about 3 days). The resulting solid was isolated by filtration, washed with isopropanol (about 5 ml), left on the filter for a while, and then dried under vacuum at 40° C. in a vacuum oven overnight to give the title compound (1.286 g). NMR appeared to show some isopropanol present (e.g. very approx. 0.89% w/w). XRPD appeared to suggest product was partly crystalline material. Ion chromatography of the product appears to confirm that the stoichiometry of the salt is that of a monohydrobromide.

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC=C(C=C2)NC(CCCCCCCN(C)CCO)=O)=O)CC | C34H51N7O4
reactant | hydrobromic acid | 0.273 ml, 1 equiv. | Br | BrH
solvent | Isopropanol | 15 ml | C(C)(C)O | C3H8O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide monohydrobromide | 1.286 g | Br.C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC=C(C=C2)NC(CCCCCCCN(C)CCO)=O)=O)CC | InChI=1S/C34H51N7O4.BrH/c1-4-30-28(32(38-27-16-21-45-22-17-27)29-24-36-41(5-2)33(29)39-30)23-35-34(44)25-12-14-26(15-13-25)37-31(43)11-9-7-6-8-10-18-40(3)19-20-42;/h12-15,24,27,42H,4-11,16-23H2,1-3H3,(H,35,44)(H,37,43)(H,38,39);1H
